US03976773
3-(4-Benzyloxycarbonylaminobutyl)-2,5-piperazinedione
The Nα-glycyl-Nε-carbobenzoxy-L-lysine methyl ester prepared as described in Example 1 was dissolved in methanol previously saturated with ammonia (300 ml.) and allowed to stand for 3 days in a sealed flask at ambient temperature. The solvent was removed in vacuo and the residual solid recrystallised from absolute ethanol to give the title compound as colourless needles (1 g.) m.p. 210°C. (Found: C, 59.9; H, 6.7; N, 13.5. C16H21N3O4 requires: C, 60.1; H, 6.5; N, 13.2%).

reactant | Nα-glycyl-Nε-carbobenzoxy-L-lysine methyl ester | COC([C@@H](NC(CN)=O)CCCCNC(=O)OCC1=CC=CC=C1)=O | C17H25N3O5
solvent | methanol | CO | CH4O
solvent | ammonia | 300 ml | N | H3N
product | 3-(4-Benzyloxycarbonylaminobutyl)-2,5-piperazinedione | 1 g, 13.2% | C(C1=CC=CC=C1)OC(=O)NCCCCC1C(NCC(N1)=O)=O | C16H21N3O4
